US05013847
Under a nitrogen blanket and at room temperature, 5.8 g of 4-(3,3-dimethyl-1-proplyoxy)-phenol in 20 ml of anhydrous dimethylformamide is dripped into 0.79 g of 80% strength sodium hydride in 50 ml of anhydrous dimethylformamide. After hydrogen evolution has subsided, the mixture is stirred for a further hour at 60° C. Subsequently, 6.12 g of 1-chloromethyl-4,5-dichloroimidazole in 20 ml of anhydrous dimethylformamide is dripped in at room temperature. The whole is then stirred for 3 hours at 80° C. and overnight at room temperature. The mixture is then poured into 100 ml of ice water, followed by extraction three times with methyl tert-butyl ether. The organic phases are washed with 5% strength sodium hydroxide solution and three times with water, dried over sodium sulfate and concentrated under reduced pressure. The residue is recrystallized from cyclohexane. There is obtained 7.4 g of 1-[4-(3,3-dimethyl-1-propyloxy)-phenoxymethyl]-4,5-dichloroimidazole having a melting point of 105°-108° C.

reactant | 4-(3,3-dimethyl-1-proplyoxy)-phenol | 5.8 g | CC(CCOC1=CC=C(C=C1)O)C | C11H16O2
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 1-chloromethyl-4,5-dichloroimidazole | 6.12 g | ClCN1C=NC(=C1Cl)Cl | C4H3Cl3N2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-[4-(3,3-dimethyl-1-propyloxy)-phenoxymethyl]-4,5-dichloroimidazole | 7.4 g | CC(CCOC1=CC=C(OCN2C=NC(=C2Cl)Cl)C=C1)C | C15H18Cl2N2O2
